US04831031
To a 100 ml three-necked round-bottomed flask equipped with dropping funnel, thermometer, and N2 inlet were added 10 g (0.035 mol) 6-(4-bromobutyryl)benzoxazolone and 26.08 ml (0.35 mol) trifluoroacetic acid. To the stirring suspension was added dropwise 12.93 ml (0.080 mol) triethylsilane, and the reaction stirred at room temperature fo 16 hours. The reaction was then poured into water, and the resulting white solid filtered and washed with water. It was then suspended in isopropyl ether, stirred, and filtered to afford white solid 6-(4-trifluoroacetoxybutyl)-benzoxazolone, m.p. 100°-103° C., 10.47 g (98.7%).

reactant | 6-(4-bromobutyryl)benzoxazolone | 0.035 mol, 10 g | BrCCCC(=O)C1=CC2=C(NC(O2)=O)C=C1 | C11H10BrNO3
reactant | trifluoroacetic acid | 0.35 mol, 26.08 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.080 mol, 12.93 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | water | O | H2O
product | 6-(4-trifluoroacetoxybutyl)-benzoxazolone | FC(C(=O)OCCCCC1=CC2=C(NC(O2)=O)C=C1)(F)F | C13H12F3NO4
